US04022833
Condensation of 1-hexene oxide and 1,9-nonanediamine affords N,N'-(1.9-nonylene)-bis[2-hydroxyhexylamine] (I: R= CH3 (CH2)3, R' = H, X= (CH2)9, Z= H).

reactant | 1-hexene oxide | C1C(CCCC)O1 | C6H12O
reactant | 1,9-nonanediamine | C(CCCCCCCCN)N | C9H22N2
product | N,N'-(1.9-nonylene)-bis[2-hydroxyhexylamine] | C(CCCCCCCCNCC(CCCC)O)NCC(CCCC)O | C21H46N2O2
